US06255327B1
5-(2-methoxyphenyl)-3-phenyl-1,3,4-oxadiazol-2-one
3,2 ml of trichloromethylchloroformate (diphosgene) are added, with stirring, to a solution of 6,3 g of ethyl N′-methoxybenzoyl-N-phenyl-hydrazine-carboxylate in anhydrous tetrahydrofuran at ambient temperature. After one hour's stirring at ambient temperature the solvent is distilled off in vacuo and the residue remaining is recrystallised from ethanol. Yield: 6.5 g (96%), melting point: 112-115° C.

reactant | trichloromethylchloroformate | 3,2 ml | ClC(Cl)(Cl)OC(=O)Cl | C2Cl4O2
reactant | ethyl N′-methoxybenzoyl-N-phenyl-hydrazine-carboxylate | 6,3 g | CON(N(C(=O)OCC)C1=CC=CC=C1)C(C1=CC=CC=C1)=O | C17H18N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(2-methoxyphenyl)-3-phenyl-1,3,4-oxadiazol-2-one | COC1=C(C=CC=C1)C1=NN(C(O1)=O)C1=CC=CC=C1 | C15H12N2O3
